US04576749
(A) (S)-N-[[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-1-azetidinyl]carbonyl]glycine, t-butyl ester
To a suspension of potassium cyanate (186 mg, 2.3 mmol) in 2 ml of dimethylformamide was added t-butyl bromoacetate (0.356 ml, 2.2 mmol). The mixture was heated to 100° C. for 1 hour and cooled to room temperature. (3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-azetidinone (372 mg, 2.0 mmol) was then added, and the mixture was heated from 65° C. to 140° C. over a period of 3.5 hours, finally maintaining the temperature at 140° C. for 0.5 hours. Upon cooling to room temperature, the crude product was extracted from ice cold 5% HCl with three portions of ethyl acetate. The combined organic layers were extracted twice with water and once with aqueous potassium bicarbonate. The organic layers were then dried over sodium sulfate and filtered through a pad of silica gel. The volatiles were removed, and the residue was subjected to chromatography on silica gel (eluting with 40% ethyl acetate-hexane) yielding 180 mg of the title compound.

reactant | potassium cyanate | 2.3 mmol, 186 mg | [O-]C#N.[K+]
reactant | t-butyl bromoacetate | 2.2 mmol, 0.356 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | (3S)-3-[[(t-Butyloxy)carbonyl]amino]-2-azetidinone | 2.0 mmol, 372 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(NC1)=O | C8H14N2O3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (S)-N-[[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-1-azetidinyl]carbonyl]glycine, t-butyl ester | 180 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C1)C(=O)NCC(=O)OC(C)(C)C)=O | C15H25N3O6
